US04816470
(a) 4-Amino-N-Ethylbenzenemethanesulphonamide
A solution of N-ethyl-4-nitrobenzenemethanesulphonamide (4.35 g) in warm ethanol (125 ml) was added to 10% palladium oxide on carbon (0.75 g, 50% aqueous paste) prereduced in ethanol (25 ml) and hydrogenated at atmospheric pressure. Hydrogen uptake (1400 ml) ceased after 20 minutes. The suspension was filtered and the catalyst was washed with methanol (100 ml) and ethanol (100 ml). Evaporation of the combined filtrate and washings produced a grey solid (2.0 g) which was crystallised from isoprpopanol (120 ml) to present the title compound as cream micro needles (1.48 g), m.p. 161°-164°.

reactant | N-ethyl-4-nitrobenzenemethanesulphonamide | 4.35 g | C(C)NS(=O)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O4S
reactant | Hydrogen | [H][H] | H2
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | 4-Amino-N-Ethylbenzenemethanesulphonamide | 2.0 g | NC1=CC=C(C=C1)CS(=O)(=O)NCC | C9H14N2O2S
